US06166006
To a solution of N-(4-hydroxymethylphenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (412 mg, 1.07 mmol) and pyridine (1 drop) in chloroform (5 ml) was dropwise added thionyl chloride (0.14 ml, 1.61 mmol), and the mixture was stirred for 2 hours. The mixture was diluted with water and extracted with chloroform. The extract was washed with saturated sodium chloride solution and dried with magnesium sulfate. The solvent was evaporated, and the resulting powder was washed with hexane-ethyl acetate (1:1) to give N-(4-chloromethylphenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide (380 mg, 88%) as colorless powder.

reactant | N-(4-hydroxymethylphenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide | 1.07 mmol, 412 mg | OCC1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C25H23NO3
reactant | thionyl chloride | 1.61 mmol, 0.14 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-(4-chloromethylphenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzoxepine-4-carboxamide | 380 mg, 88% | ClCC1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C25H22ClNO2
